US07732444B2
Intermediate 133: 3-(2-Fluoro-pyridin-4-yl)-benzaldehyde:
2 fluoro-4-iodo pyridine (5 g), 3 formylphenylboronic acid (4 g), and palladium tetrakis triphenylphosphine were suspended in 500 mL of THF. Potassium carbonate (7.42 g) was added along with 50 mL of water. The flask was purged with nitrogen and the mixture heated to 65 C for 4 hours. The solvent was removed by rotary evaporation and the residue partitioned between ethyl acetate and water. Removal of the ethyl acetate gave a residue which was chromatographed on silica gel (1:1 ethyl acetate hexanes) to give the desired product. Yield: 1.42 g. LC-MS showed the product had the expected M+H+ of 202.

reactant | fluoro-4-iodo pyridine | 5 g | FC1=NC=CC(=C1)I | C5H3FIN
reactant | formylphenylboronic acid | 4 g | C(=O)OB(O)C1=CC=CC=C1 | C7H7BO3
reactant | Potassium carbonate | 7.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 mL | O | H2O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 3-(2-Fluoro-pyridin-4-yl)-benzaldehyde | FC1=NC=CC(=C1)C=1C=C(C=O)C=CC1 | C12H8FNO
